US06107329
5-Chloro-1H-indole-2-carboxylic acid [2-(4-hydroxy-piperidin-1-yl)-2-oxo-ethyl]-amide
4-Hydroxypiperidine (0.83 mmol) and [(5-chloro-1H-indole-2-carbonyl)-amino]-acetic acid (0.8 mmol) were coupled according to procedure A (dimethylformamide- dichloromethane reaction solvent) with the following workup: the reaction mixture was stirred with ethyl acetate and aqueous 2N HCl, the resulting suspension filtered and the collected solid washed successively with aqueous 2N HCl, aqueous 2N NaOH, ether and dried : Yield 180 mg, 68%; TSPMS 336/338 (MH+, 100%);

reactant | 4-Hydroxypiperidine | 0.83 mmol | OC1CCNCC1 | C5H11NO
reactant | [(5-chloro-1H-indole-2-carbonyl)-amino]-acetic acid | 0.8 mmol | ClC=1C=C2C=C(NC2=CC1)C(=O)NCC(=O)O | C11H9ClN2O3
reactant | dimethylformamide dichloromethane | CN(C=O)C.ClCCl
reactant | HCl | 2N | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Chloro-1H-indole-2-carboxylic acid [2-(4-hydroxy-piperidin-1-yl)-2-oxo-ethyl]-amide | OC1CCN(CC1)C(CNC(=O)C=1NC2=CC=C(C=C2C1)Cl)=O | C16H18ClN3O3
